US04831055
Methyl 4-[2-(4-isopropylbenzamido)ethoxy]benzoate
1-(4-Isopropylbenzoyl)aziridine (1.89 g), 1.52 g of methyl p-hydroxybenzoate and 2.76 g of anhydrous potassium carbonate were added to 20 ml of N,N-dimethylformamide, the mixture was stirred at 59°-60° C. for 17 hours, the reaction solution was poured over ice water, the mixture was extracted with ethyl acetate, the extract was washed with 10% sodium hydroxide solution and then with water, dried with anhydrous magnesium sulfate, concentrated in vacuo, n-hexane was added to the residue, and the mixture was filtered to give 2.75 g (yield: 80.5%) of crystals, m.p. 89°-91° C.

reactant | 1-(4-Isopropylbenzoyl)aziridine | 1.89 g | C(C)(C)C1=CC=C(C(=O)N2CC2)C=C1 | C12H15NO
reactant | methyl p-hydroxybenzoate | 1.52 g | COC(=O)C=1C=CC(=CC1)O | C8H8O3
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Methyl 4-[2-(4-isopropylbenzamido)ethoxy]benzoate | 2.75 g, yield: 80.5% | C(C)(C)C1=CC=C(C(=O)NCCOC2=CC=C(C(=O)OC)C=C2)C=C1 | C20H23NO4
